US08211908B2
To a solution of 0.11 g of 1-(2,2-dimethoxyethyl)-7-(trifluoromethyl)-3,4-dihydro-1,5-naphthyridin-2(1H)-one in 2 mL of dioxane, 0.16 g of 2,3-dichloro-5,6-dicyano-p-benzoquinone was added, and the mixture was heated under reflux while stirring for 3 hours. Thereto were added water and ethyl acetate, the mixture was adjusted to pH 12 with a 2.0 mol/L aqueous sodium hydroxide solution, and the organic layer was separated. The organic layer was washed with an aqueous sodium hydroxide solution and a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure to obtain 90 mg of 1-(2,2-dimethoxyethyl)-7-(trifluoromethyl)-1,5-naphthyridin-2(1H)-one as a brown solid.

reactant | 1-(2,2-dimethoxyethyl)-7-(trifluoromethyl)-3,4-dihydro-1,5-naphthyridin-2(1H)-one | 0.11 g | COC(CN1C(CCC2=NC=C(C=C12)C(F)(F)F)=O)OC | C13H15F3N2O3
reactant | 2,3-dichloro-5,6-dicyano-p-benzoquinone | 0.16 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
reactant | water | O | H2O
reactant | sodium hydroxide | 2.0 mol/L | [OH-].[Na+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2,2-dimethoxyethyl)-7-(trifluoromethyl)-1,5-naphthyridin-2(1H)-one | 90 mg | COC(CN1C(C=CC2=NC=C(C=C12)C(F)(F)F)=O)OC | C13H13F3N2O3
